US05276024
3-Benzo[b]thienyl-tri-n-butyl-stannane
32.0 9 (150 mmol) of 3-bromo-benzo[b]thiophene are added dropwise at -78° C. to a solution of 150 mmol of n-butyllithium in 500 ml of anhydrous THF. The mixture is stirred at -78° C. for 1 h, 52.1 g (160 mmol) of tri-n-butyl-tin chloride are added and the mixture is allowed to warm to room temperature. For working-up, saturated ammonium chloride solution is added and the mixture is extracted with ether. After chromatography on silica gel using petroleum ether, 14.8 g (23 % of theory) of the title compound are obtained.

reactant | 3-bromo-benzo[b]thiophene | BrC=1C2=C(SC1)C=CC=C2 | C8H5BrS
reactant | n-butyllithium | 150 mmol | C(CCC)[Li]
reactant | tri-n-butyl-tin chloride | 160 mmol, 52.1 g | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 3-Benzo[b]thienyl-tri-n-butyl-stannane | S1C2=C(C(=C1)[Sn](CCCC)(CCCC)CCCC)C=CC=C2 | InChI=1S/C8H5S.3C4H9.Sn/c1-2-4-8-7(3-1)5-6-9-8;3*1-3-4-2;/h1-4,6H;3*1,3-4H2,2H3;
